US09260420B2
Synthesis of acetic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-2H-quinolin-1-ylmethyl ester
Acetic acid 7-(4-chlorobutoxy)-2-oxo-2H-quinolin-1-ylmethyl ester (299 mg), 1-benzo[b]thiophen-4-ylpiperazine hydrochloride (235 mg), potassium carbonate (319 mg) and sodium iodide (152 mg) were suspended in DMF (5 ml), and this was stirred at 70° C. for 3 hr and further at 80° C. for 4 hr. After cooling to room temperature, to the reaction mixture was added aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by moderate-pressure silica gel column chromatography (hexane:ethyl acetate=1:0 to 1:9) and further by basic silica gel column chromatography, and concentrated under reduced pressure to give the title compound (132 mg) as a colorless amorphous solid.

reactant | Acetic acid 7-(4-chlorobutoxy)-2-oxo-2H-quinolin-1-ylmethyl ester | 299 mg | ClCCCCOC1=CC=C2C=CC(N(C2=C1)COC(C)=O)=O | C16H18ClNO4
reactant | 1-benzo[b]thiophen-4-ylpiperazine hydrochloride | 235 mg | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCNCC2
reactant | potassium carbonate | 319 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 152 mg | [I-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | acetic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-2H-quinolin-1-ylmethyl ester | 132 mg | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1C=CC(N(C1=C2)COC(C)=O)=O | C28H31N3O4S
